US07745475B2
3-[4-(Azetidin-1-ylcarbonyl)-2-chlorophenoxy]-5-[(1S)-2-hydroxy-1-methylethoxy]-N-pyrazin-2-ylbenzamide
A mixture of 3-[4-(azetidin-1-ylcarbonyl)-2-chlorophenoxy]-5-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethoxy)-N-pyrazin-2-ylbenzamide (37 mg, 0.062 mmol) in methanol (0.5 mL) and 3.5M hydrochloric acid (0.018 mL) was stirred for 30 mins at RT. The solution was taken to pH 6 with saturated aqueous sodium bicarbonate solution and the volatiles were removed in vacuo. The residue was taken into ethyl acetate (10 mL) and washed with water (2 mL), brine (2 mL), dried (MgSO4), filtered and the solvents removed in vacuo to give the crude product which was chromatographed on silica, eluting with 0-10% methanol in ethyl acetate, to give the desired compound as a white foam (21 mg).

reactant | 3-[4-(azetidin-1-ylcarbonyl)-2-chlorophenoxy]-5-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethoxy)-N-pyrazin-2-ylbenzamide | 0.062 mmol, 37 mg | N1(CCC1)C(=O)C1=CC(=C(OC=2C=C(C(=O)NC3=NC=CN=C3)C=C(C2)O[C@H](CO[Si](C)(C)C(C)(C)C)C)C=C1)Cl | C30H37ClN4O5Si
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 0.5 mL | CO | CH4O
solvent | hydrochloric acid | 3.5M, 0.018 mL | Cl | ClH
product | 3-[4-(Azetidin-1-ylcarbonyl)-2-chlorophenoxy]-5-[(1S)-2-hydroxy-1-methylethoxy]-N-pyrazin-2-ylbenzamide | 21 mg | N1(CCC1)C(=O)C1=CC(=C(OC=2C=C(C(=O)NC3=NC=CN=C3)C=C(C2)O[C@H](CO)C)C=C1)Cl | C24H23ClN4O5
